US07125896B2
b) 1-[2-[2-Bromo-5-(cyclopentyloxy)phenoxy]ethyl)piperidine
4-Bromo-3-(2-{piperidin-1-yl}ethoxy)phenol (1.5 g), bromocyclopentane (0.59 ml) and anhydrous potassium carbonate (1.04 g) were stirred and heated at 80° C. in dimethylformamide for 18 h. The mixture was partitioned between ethyl acetate (100 ml) and water (70 ml). The aqueous was extracted further with ethyl acetate (100 ml) and the combined organics were washed with 2N sodium hydroxide solution (50 ml), water (50 ml), brine (50 ml), dried (MgSO4) and evaporated to give the product as an oil (1.5 g).

reactant | 4-Bromo-3-(2-{piperidin-1-yl}ethoxy)phenol | 1.5 g | BrC1=C(C=C(C=C1)O)OCCN1CCCCC1 | C13H18BrNO2
reactant | bromocyclopentane | 0.59 ml | BrC1CCCC1 | C5H9Br
reactant | potassium carbonate | 1.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[2-[2-Bromo-5-(cyclopentyloxy)phenoxy]ethyl)piperidine | 1.5 g | BrC1=C(OCCN2CCCCC2)C=C(C=C1)OC1CCCC1 | C18H26BrNO2
